US09085555B2
B. 3-Aminomethyl-5-chloro-4-fluoro-N,N-dimethyl-benzamide
To a mixture of (3-chloro-5-dimethylcarbamoyl-2-fluoro-benzyl)-carbamic acid tert-butyl ester (115 mg, 0.33 mmol) in CH2Cl2 (4 mL) was added TFA (1 mL). The reaction mixture was stirred for 1 h at ambient temperature and the solvent was removed in vacuo to give the title compound. MS (LC/MS): 231.0 [M]+. tR (HPLC conditions c): 2.59 min.

reactant | (3-chloro-5-dimethylcarbamoyl-2-fluoro-benzyl)-carbamic acid tert-butyl ester | 0.33 mmol, 115 mg | C(C)(C)(C)OC(NCC1=C(C(=CC(=C1)C(N(C)C)=O)Cl)F)=O | C15H20ClFN2O3
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | 3-Aminomethyl-5-chloro-4-fluoro-N,N-dimethyl-benzamide | NCC=1C=C(C(=O)N(C)C)C=C(C1F)Cl | C10H12ClFN2O
